US05114936
a. 3-Morpholino-2-cyclohexen-1-one
In 700 ml benzene was dissolved 40.0 g 1,3-cyclohexanedione and 62 ml morpholine. The resulting solution was heated at reflux under nitrogen atmosphere for 1.5 hours. The water present in the reaction mixture was collected using a Dean-Stark trap. Upon cooling to room temperature, the reaction mixture was filtered through alumina and the filtrate concentrated in vacuo. Trituration of the resulting oil with ether solidified 62.4 g of 3-morpholino-2-cyclohexen-1-one crystals.

reactant | 1,3-cyclohexanedione | 40.0 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | morpholine | 62 ml | N1CCOCC1 | C4H9NO
solvent | benzene | 700 ml | C1=CC=CC=C1 | C6H6
product | 3-Morpholino-2-cyclohexen-1-one | O1CCN(CC1)C1=CC(CCC1)=O | C10H15NO2
